US09447044B2
Step A: 6-cyclohexylsulfanyl-pyridine-2-carboxylic acid methyl ester
After 6-bromo-pyridine-2-carboxylic acid methyl ester (0.30 g, 1.39 mmol) was dissolved in DMF (4 mL), K2CO3(0.575 g, 4.16 mmol) and cyclohexanethiol (0.25 mL, 2.08 mmol) were added thereto in turn, and the mixture was stirred at 70° C. for 18 hours. After the termination of the reaction, the reactant was concentrated under reduced pressure, extracted with EtOAc, and purified by column chromatography (eluent, EtOAc/Hex=1/5) to obtain the title compound (0.162 g, 46%).

reactant | 6-bromo-pyridine-2-carboxylic acid methyl ester | 1.39 mmol, 0.30 g | COC(=O)C1=NC(=CC=C1)Br | C7H6BrNO2
reactant | K2CO3 | 4.16 mmol, 0.575 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexanethiol | 2.08 mmol, 0.25 mL | C1(CCCCC1)S | C6H12S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-cyclohexylsulfanyl-pyridine-2-carboxylic acid methyl ester | 0.162 g, 46% | COC(=O)C1=NC(=CC=C1)SC1CCCCC1 | C13H17NO2S
